US07919628B2
40 mg 2-[(1-Bromo-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester and 2 mg Bis(triphenylphosphine)palladium(II) chloride were suspended in 2 ml of DMF and deoxygenated with Argon. 0.26 ml of TMEDA were added, the mixture was again bubbled with Argon, and then 14 mg (0.137 mmol) phenylacetylene were added. After 14h at 80° the reaction was filtered, purified by RP-HPLC and freeze-dried to give 8 mg of 2-{[1-(Phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester (19%).

reactant | 2-[(1-Bromo-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 40 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)Br)=O | C16H16BrNO3
reactant | phenylacetylene | 0.137 mmol, 14 mg | C1(=CC=CC=C1)C#C | C8H6
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-{[1-(Phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 8 mg, 19% | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)C#CC1=CC=CC=C1)=O | C24H21NO3
